US07390905B2
To 4600 ml of an acetic acid solution containing 190 g of 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxo-2,3-dihydro-1H-pyridine was added 91 g of zinc powder, and the mixture was stirred at room temperature for 24 hours. Insoluble materials were filtered off from the reaction solution, and the filtrate was concentrated. To the residue was added 400 ml of ethyl acetate, and the mixture was washed with an aqueous sodium hydrogen carbonate solution and saturated brine, dried and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:1) to give 166 g of 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxopiperidine.

reactant | 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxo-2,3-dihydro-1H-pyridine | 190 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(C=C1)=O)C1=C(C=C(C=C1)F)C | C20H18FNO3
catalyst | zinc | 91 g | [Zn] | Zn
solvent | acetic acid | 4600 ml | C(C)(=O)O | C2H4O2
product | 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxopiperidine | 166 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(CC1)=O)C1=C(C=C(C=C1)F)C | C20H20FNO3
